US05189054
Scheme I, step e: 3-[(Phenacyl)ethylamino]-2-carbethoxy-4,6-dichloro-1-tert-butyloxycarbonyl-indole
Suspend sodium hydride (52 mg of a 60% dispersion, 1.73 mmol) in anhydrous dimethylformamide and cool to -10° C. Add, by dropwise addition, a solution of 3-[(phenacyl)amino]-2-carbethoxy-4,6-dichloro-1-tert-butyloxycarbonyl-indole (0.75 g, 1.57 mmol) in dimethylformamide. Stir under a nitrogen atmosphere for 30 minutes. Add ethyl iodide (0.27 g, 1.73 mmol) and stir at -10° C. for 5 hours. Pour into 1N hydrochloric acid (100 mL) and extract into ethyl acetate. Separate the organic phase and dry (MgSO4). Evaporate the solvent in vacuo and purify by flash chromatography (4:1 methylene chloride/ethyl acetate and recrystallize (ethyl acetate/hexane) to give the title compound; mp 110°-11° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-[(phenacyl)amino]-2-carbethoxy-4,6-dichloro-1-tert-butyloxycarbonyl-indole | 1.57 mmol, 0.75 g | C(C(=O)C1=CC=CC=C1)NC1=C(N(C2=CC(=CC(=C12)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC | C24H24Cl2N2O5
reactant | ethyl iodide | 1.73 mmol, 0.27 g | C(C)I | C2H5I
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[(Phenacyl)ethylamino]-2-carbethoxy-4,6-dichloro-1-tert-butyloxycarbonyl-indole | C(C(=O)C1=CC=CC=C1)CCNC1=C(N(C2=CC(=CC(=C12)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC | C26H28Cl2N2O5
